US07557138B2
4-(4-Phenyl-4-oxobutoxy)-7H-furo[3,2-g][1]benzopyran-7-on
497 mg (2.720 mmol) of 4-chlorobutyrophenone and 445 mg (2.968 mmol) of sodium iodide were refluxed in 30 ml acetone for 1.5 hours to obtain the iodo derivative. The reaction was monitored by TLC and also visually by the precipitation of sodium chloride. To this slurry was added 500 mg (2.473 mmol) of 5-hydroxypsoralen, an excess (2 g) of anhydrous potassium carbonate and it was refluxed for 140 hours. The progress of the reaction was monitored by thin layer chromatography. After 140 hours the reaction mixture was concentrated under reduced pressure. The oily residue was cooled and diluted with water. The aqueous solution was then acidified with concentrated hydrochloric acid to pH 1. The slurry was stirred for 15-20 min, filtered and washed with water and dried under vacuum. The solids were suspended in 50 ml ethyl acetate and refluxed to separate the un-reacted 5-hydroxypsoralen. The ethyl acetate layer was concentrated, the resulting residue dissolved in 100 ml dichloromethane and extracted with 25 ml of 1% sodium hydroxide to separate the remaining trace amounts of un-reacted 5-hydroxypsoralen. The dichloromethane layer was washed with 30 ml of 2% hydrochloric acid solution, dried over anhydrous sodium sulfate and concentrated. The solid residue obtained was dissolved in a methanol-acetone mixture, treated with charcoal and re-crystallized from a petroleum ether-acetone (90:10) mixture.

reactant | 5-hydroxypsoralen | 2.473 mmol, 500 mg | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | methanol acetone | CO.CC(=O)C
product | 4-(4-Phenyl-4-oxobutoxy)-7H-furo[3,2-g][1]benzopyran-7-on | C1(=CC=CC=C1)C(CCCOC1=C2C(=CC3=C1C=CC(O3)=O)OC=C2)=O | C21H16O5
